US04431592
2-Hydroxyethyl 2,5-dimethyl-3-(1-propenyl)-1-cyclopentene-1-carboxylate
A 200-ml stainless steel autoclave was filled in an argon atmosphere with the following: ethylene carbonate (22.0 g, 0.25 mole), 1,3-pentadiene (E and Z mixture, 50.0 ml, 0.50 mole), tetrahydrofuran (50 ml), Ni[1,5-cyclooctadiene]2 (300 mg, 1.09 mmole) and triethylphosphine (515 mg, 4.36 mmole). The autoclave was sealed and heated to 120° C. for 18 hours. The resultant yellow-green solution was evaporated and the title compound was isolated using column chromatography. Isolated yield was 11.19 g (20 percent of theory) of an isometric mixture containing 80 percent by weight of the title compound. Analysis by nuclear magnetic resonance spectroscopy confirmed the product's identity.

reactant | ethylene carbonate | 0.25 mole, 22.0 g | C1(OCCO1)=O | C3H4O3
reactant | 1,3-pentadiene | 0.50 mole, 50.0 ml | C=CC=CC | C5H8
reactant | triethylphosphine | 4.36 mmole, 515 mg | C(C)P(CC)CC | C6H15P
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-Hydroxyethyl 2,5-dimethyl-3-(1-propenyl)-1-cyclopentene-1-carboxylate | CC1=C(C(CC1C=CC)C)C(=O)OCCO | C13H20O3
